US08895745B2
step a) 1-{3-[7-(5-Mercapto-4-methyl-4H-[1,2,4]triazol-3-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea
To a solution of 1-[3-(7-Hydrazinocarbonyl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea (200 mg, 0.51 mmol) and methyl isothiocyanate (37 mg, 0.57 mmol) were dissolved in EtOH (6 ml) and heated at 70° C. overnight. The reaction mixture was allowed to cool, placed in an ice bath upon which a precipitate was formed. The solid was filtered off, washed with EtOAc and Et2O, then dried to afford the title compound (72 mg). MS: [M+H]+=448.

reactant | 1-[3-(7-Hydrazinocarbonyl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea | 0.51 mmol, 200 mg | N(N)C(=O)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C17H15F3N6O2
reactant | methyl isothiocyanate | 0.57 mmol, 37 mg | CN=C=S | C2H3NS
solvent | EtOH | 6 ml | CCO | C2H6O
product | 1-{3-[7-(5-Mercapto-4-methyl-4H-[1,2,4]triazol-3-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea | 72 mg | SC=1N(C(=NN1)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F)C | C19H16F3N7OS
